US05712274
(±)-3-(4-(4-Chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)propionic acid (0.33 g) and 1-hydroxybenzotriazole (0.12 g) are added to dry dimethylformamide (20 ml) and the mixture is stirred under ice-cooling. Thereto is added 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (0.17 g), and then triethylamine (0.16 g) and aniline (72 mg) are added. The mixture is stirred at room temperature for 24 hours. After the completion of the reaction, water (100 ml) is added and the mixture is extracted with ethyl acetate. The organic layer is washed with 6N hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (ethyl acetate:methanol=10:1) and crystallized from ethyl acetate and isopropyl ether to give 0.03 g of (±)-N-phenyl-3-(4-(4-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo-[4,3-a][1,4]diazepin-6-yl)propaneamide as white powdery crystals, melting point 183°-185° C.

reactant | (±)-3-(4-(4-Chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)propionic acid | 0.33 g | ClC1=CC=C(C=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)C(=NN2)C)CCC(=O)O | C20H19ClN4O2S
reactant | 1-hydroxybenzotriazole | 0.12 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.17 g | Cl.C(C)N=C=NCCCN(C)C
reactant | aniline | 72 mg | NC1=CC=CC=C1 | C6H7N
solvent | water | 100 ml | O | H2O
solvent | triethylamine | 0.16 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (±)-N-phenyl-3-(4-(4-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo-[4,3-a][1,4]diazepin-6-yl)propaneamide | 0.03 g | C1(=CC=CC=C1)NC(CCC1C=2N(C3=C(C(=N1)C1=CC=C(C=C1)Cl)C=C(S3)CC)C(=NN2)C)=O | C26H24ClN5OS
